US09085570B2
To a solution of tert-butyl N-hydroxycarbamate (9.2 g, 69.10 mmol, 1.00 equiv) and cyclopenta-1,3-diene (20.2 g, 305.59 mmol, 4.42 equiv) in methanol (600 mL) was added of a solution of sodium periodate (17 g, 79.48 mmol, 1.15 equiv) in water (180 mL) dropwise at 0° C. with stirring in 30 min. The reaction mixture was stirred for another 30 min at 0° C. and then diluted with 600 mL of water. The solution was extracted with 3×300 mL of ethyl acetate. The combined organic layers was washed with 2×200 mL of brine, dried over anhydrous sodium sulfate and concentrated under vacuum to give 9.1 g (67%) of tert-butyl 2-oxa-3-azabicyclo[2.2.1]hept-5-ene-3-carboxylate as a white solid. 1HNMR (400 MHz, D2O, ppm) δ 6.42 (2H, s), 5.22 (1H, s), 4.99 (1H, s), 1.99 (1H, d, J=8.4Hz), 1.73 (1H, d, J=8.4Hz), 1.47 (9H, s).

reactant | tert-butyl N-hydroxycarbamate | 69.10 mmol, 9.2 g, 1.00 equiv | ONC(OC(C)(C)C)=O | C5H11NO3
reactant | cyclopenta-1,3-diene | 305.59 mmol, 20.2 g, 4.42 equiv | C1=CC=CC1 | C5H6
reactant | sodium periodate | 79.48 mmol, 17 g, 1.15 equiv | I(=O)(=O)(=O)[O-].[Na+]
solvent | methanol | 600 mL | CO | CH4O
solvent | water | 180 mL | O | H2O
solvent | water | 600 mL | O | H2O
product | tert-butyl 2-oxa-3-azabicyclo[2.2.1]hept-5-ene-3-carboxylate | 9.1 g, 67% | C12ON(C(C=C1)C2)C(=O)OC(C)(C)C | C10H15NO3
